US05679683
DMF (0.125 mL, 1.7 mmol) is added dropwise to a solution of (COCl)2 (0.15 mL, 1.68 mmol) in 1,2-dichloroethane (4.5 mL) at r.t. After gas evolution ceases, 9-methoxy-4-oxo-3H-benzothieno[3,2-d]pyrimidine (73.2 mg, 0.32 mmol) is added. The resulting mixture is heated at reflux for 4hr. After the reaction is cooled to r.t., the black tar is filtered off. The filtrate is stripped to dryness and then mixed with water. A yellow solid forms and is collected via filtration. The solid is washed with water and air dried to give 4-chloro-9-methoxybenzothieno[3,2-d]pyrimidine (53 mg, 66%). 1H NMR (DMSO) δ9.17 (1H, s), 7.82-7.78 (2H, m), 7.3-7.2 (1H, m), 4.06 (3H, s).

reactant | DMF | 1.7 mmol, 0.125 mL | CN(C)C=O | C3H7NO
reactant | (COCl)2 | 1.68 mmol, 0.15 mL | C(=O)(C(=O)Cl)Cl | C2Cl2O2
reactant | 9-methoxy-4-oxo-3H-benzothieno[3,2-d]pyrimidine | 0.32 mmol, 73.2 mg | COC1=CC=CC2=C1C=1N=CNC(C1S2)=O | C11H8N2O2S
solvent | 1,2-dichloroethane | 4.5 mL | ClCCCl | C2H4Cl2
product | 4-chloro-9-methoxybenzothieno[3,2-d]pyrimidine | 53 mg, 66% | ClC=1C2=C(N=CN1)C1=C(S2)C=CC=C1OC | C11H7ClN2OS
